US06608070B1
2-Bromoacetyl-3-chloro-4-ethylpyridine hydrobromide:
The title compound was prepared from 2-acetyl-3-chloro-4-ethylpyridine according to the procedure for preparing 2-bromo-4-methylpyridine hydrobromide described in step 2 of Example 31.

reactant | 2-acetyl-3-chloro-4-ethylpyridine | C(C)(=O)C1=NC=CC(=C1Cl)CC | C9H10ClNO
reactant | 2-bromo-4-methylpyridine hydrobromide | Br.BrC1=NC=CC(=C1)C
product | 2-Bromoacetyl-3-chloro-4-ethylpyridine hydrobromide | Br.BrCC(=O)C1=NC=CC(=C1Cl)CC | InChI=1S/C9H9BrClNO.BrH/c1-2-6-3-4-12-9(8(6)11)7(13)5-10;/h3-4H,2,5H2,1H3;1H
